US05034404
To a mixture of 0.24g of 1-(6-chloro-3-pyridylmethyl)-3,3-dimethyl-2-nitroguanidine (Compound No. 6) and 6ml of dry tetrahydrofuran (THF) was added 0.045g of 60% sodium hydride (in mineral oil) at room temperature, followed by stirring for 30 minutes. A solution of 0.16g of iodomethane in lml of THF was added to the reaction mixture and allowed to react for 3 days. After adding 0.lml of acetic acid, the mixture was filtered to remove insoluble materials and the filtrate was concentrated. The residue was purified by a column chromatography [developing solvent: dichloromethanemethanol (20:1)] to obtain 0.17g of 1-(6-chloro-3-pyridylmethyl)-1,3,3-trimethyl-2-nitroguanidine (Compound No. 14) as a white solid.

reactant | 1-(6-chloro-3-pyridylmethyl)-3,3-dimethyl-2-nitroguanidine | 0.24g | ClC1=CC=C(C=N1)CNC(=N[N+](=O)[O-])N(C)C | C9H12ClN5O2
reactant | tetrahydrofuran | 6ml | O1CCCC1 | C4H8O
reactant | sodium hydride | 0.045g | [H-].[Na+]
reactant | iodomethane | 0.16g | IC | CH3I
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(6-chloro-3-pyridylmethyl)-1,3,3-trimethyl-2-nitroguanidine | 0.17g | ClC1=CC=C(C=N1)CN(C(=N[N+](=O)[O-])N(C)C)C | C10H14ClN5O2
